US04461918
Hexachlorobenzene (25.0 g, 0.088 mol) was added to 50 mL of dimethylformamide followed by the addition of 7.4 g (0.096 mol) of 73% sodium hydrosulfide and 7.9 mL (0.079 mol) of 40% aqueous sodium hydroxide. The stirred reaction mixture was heated to 85° C. for 3.0 hr, cooled to room temperature, and poured into 200 mL of water. After 10 min of stirring, the insoluble material was removed by filtration, and the filtrate acidified with 15 mL (0.18 mol) of concentrated aqueous hydrochloric acid. The resulting precipitate was collected by filtration, washed with 100 mL of water, and dried in vacuo giving 22.8 g, 92% of theoretical, of pentachlorothiophenol.

reactant | Hexachlorobenzene | 0.088 mol, 25.0 g | ClC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C6Cl6
reactant | sodium hydrosulfide | 0.096 mol, 7.4 g | [SH-].[Na+]
reactant | sodium hydroxide | 0.079 mol, 7.9 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.18 mol, 15 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | pentachlorothiophenol | ClC1=C(C(=C(C(=C1S)Cl)Cl)Cl)Cl | C6HCl5S
